US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(3-fluoro-4-methoxybenzyl)thio]-1,3,4-oxadiazole
To a solution of 2,3-dihydro-1-benzofuran-5-carbohydrazide (356 mg, 2.00 mmol) and potassium hydroxide (85%, 198 mg, 3.00 mmol) in ethanol (15 mL) was added carbon disulfide (0.180 mL, 3.00 mmol), and the resulting mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, a mixture of the obtained residue and N,N-dimethylformamide (10 mL) was tightly sealed in a vial, and the microwave was irradiated at 150° C. for 30 sec. After cooling to room temperature, 3-fluoro-4-methoxybenzyl chloride (698 mg, 4.00 mmol) was added, and the resulting mixture was stirred for 2 hr. The reaction mixture was diluted with ethyl acetate, washed twice with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from hexane/ethyl acetate to give the title compound (478 mg, yield 67%) as colorless crystals.

reactant | 2,3-dihydro-1-benzofuran-5-carbohydrazide | 2.00 mmol, 356 mg | O1CCC2=C1C=CC(=C2)C(=O)NN | C9H10N2O2
reactant | potassium hydroxide | 3.00 mmol, 198 mg | [OH-].[K+]
reactant | carbon disulfide | 3.00 mmol, 0.180 mL | C(=S)=S | CS2
reactant | 3-fluoro-4-methoxybenzyl chloride | 4.00 mmol, 698 mg | FC=1C=C(CCl)C=CC1OC | C8H8ClFO
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-[(3-fluoro-4-methoxybenzyl)thio]-1,3,4-oxadiazole | 478 mg, yield 67% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)SCC2=CC(=C(C=C2)OC)F | C18H15FN2O3S
